US04341402
A mixture containing 1.4 g. of 3-[(4-methylphenylsulfonyl)(1-methyl-2-pyrrolyl)methyl]-1-ethyl-2-methyl-1H-indole, 5 ml. of N,N-dimethylformamide and 30 ml. of 20% aqueous sodium hydroxide was heated 3 hours at 50° C. The reaction mixture was then cooled and diluted with 100 ml. of water and the product extracted with toluene. The toluene extracts were washed with water and evaporated to dryness affording 3-[(dimethylamino)(1-methyl-2-pyrrolyl)methyl]-1-ethyl-2-methyl-1H-indole as a brown gummy material, the infrared and nuclear magnetic resonance spectra of which were consistent with the assigned structure. A toluene solution of this product when contacted with acidic clay or phenolic resin developed an orange image.

reactant | 3-[(4-methylphenylsulfonyl)(1-methyl-2-pyrrolyl)methyl]-1-ethyl-2-methyl-1H-indole | CC1=CC=C(C=C1)S(=O)(=O)C(C1=C(N(C2=CC=CC=C12)CC)C)C=1N(C=CC1)C | C24H26N2O2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[(dimethylamino)(1-methyl-2-pyrrolyl)methyl]-1-ethyl-2-methyl-1H-indole | CN(C)C(C1=C(N(C2=CC=CC=C12)CC)C)C=1N(C=CC1)C | C19H25N3
